US07598243B2
A mixture of tert-butyl 4-[3-(ethoxycarbonyl)phenyl]-3,6-dihydropyridine-1(2H)-carboxylate (6.48 g, 19.6 mmol) and Pd(OH)2/C (20% Pd, 1 g) in 50 mL of methanol was stirred under a hydrogen atmosphere (balloon) for 18 h. The reaction mixture was then filtered through a celite plug, and the filtrate was concentrated to give tert-butyl 4-[3-(ethoxycarbonyl)phenyl]piperidine-1-carboxylate which did not require further purification. 1HNMR (CDCl3, 500 MHz): δ 7.91 (m, 2H), 7.40 (m, 2H), 4.40 (q, J=7.0 Hz, 2H), 4.28 (br s, 2H), 2.83 (m, 2H), 2.73 (tt, J=12.5, 4.0 Hz, 1H), 1.85 (br d, J=13.0 Hz), 1.67 (dq, J=4.0, 12.5 Hz, 2H), 1.51 (s, 9H), 1.42 (t, J=7.0 Hz).

reactant | tert-butyl 4-[3-(ethoxycarbonyl)phenyl]-3,6-dihydropyridine-1(2H)-carboxylate | 19.6 mmol, 6.48 g | C(C)OC(=O)C=1C=C(C=CC1)C=1CCN(CC1)C(=O)OC(C)(C)C | C19H25NO4
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd(OH)2/C | 1 g | [OH-].[OH-].[Pd+2]
product | tert-butyl 4-[3-(ethoxycarbonyl)phenyl]piperidine-1-carboxylate | C(C)OC(=O)C=1C=C(C=CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H27NO4
